US05442062
The above compound (535 mg, 4.31 mmol) and diethylamine (350 mg, 4.79 mmol) were dissolved in dimethylformamide (2 ml) and the solution was stirred under ice-cooling. Diphenylphosphoryl azide (1.42 g, 5.16 mmol) was added thereto, followed by triethylamine (960 mg, 9.49 mmol), and the mixture was stirred for 1 hour under ice-cooling and stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate and washed with an aqueous saturated sodium chloride solution. The ethyl acetate layer was washed with an aqueous saturated sodium carbonate solution and aqueous saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=50:1) to obtain 1,3-cyclohexadiene-1-carboxylic acid N,N-diethylamide (763 mg, 98.7%) as pale yellow liquid. This compound has the following NMR spectrum.

reactant | diethylamine | 4.79 mmol, 350 mg | C(C)NCC | C4H11N
reactant | Diphenylphosphoryl azide | 5.16 mmol, 1.42 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 9.49 mmol, 960 mg | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3-cyclohexadiene-1-carboxylic acid N,N-diethylamide | 763 mg, 98.7% | C(C)N(C(=O)C1=CC=CCC1)CC | C11H17NO
